US09302991B2
<Step-4>:(R)-2-methyl-N-(1-(2-(2,2,2-trifluoroethoxy)pyridin-4-yl)ethyl)propane-2-sulfinamide (single diastereomer)
The title compound is prepared in 75% yield (0.52 g, a white solid) from 1-(2-(2,2,2-trifluoroethoxy)pyridin-4-yl)ethanone (0.47 g, 2.14 mmol, Step-3) and (R)-2-methylpropane-2-sulfinamide by the similar manner in Step-4 of Amine-1.

reactant | 1-(2-(2,2,2-trifluoroethoxy)pyridin-4-yl)ethanone | 2.14 mmol, 0.47 g | FC(COC1=NC=CC(=C1)C(C)=O)(F)F | C9H8F3NO2
reactant | (R)-2-methylpropane-2-sulfinamide | CC(C)(C)[S@@](=O)N | C4H11NOS
product | (R)-2-methyl-N-(1-(2-(2,2,2-trifluoroethoxy)pyridin-4-yl)ethyl)propane-2-sulfinamide | 75% yield | CC(C)(C)[S@@](=O)NC(C)C1=CC(=NC=C1)OCC(F)(F)F | C13H19F3N2O2S
